US09388165B2
Step (1): Preparation of 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-(4-methyl-3-nitrophenyl)urea
1-Chloro-4-isocyanato-2-(trifluoromethyl)benzene (9.97 g, 45.0 mmol) was stirred in a solvent of tetrahydrofuran (100 mL). The reaction solution was added with 4-methyl-3-nitroaniline (6.52 g, 42.9 mmol), followed by stirring for about 6 hours at room temperature. The reaction mixture was diluted with ethyl acetate, and washed with a saturated aqueous sodium bicarbonate solution and saline. The organic layer thus obtained was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The concentrated solid was added with a mixed solution of ethyl acetate/hexane (1/5), followed by stirring for 2 hours or more. The resulting solid was filtered under reduced pressure, and washed with diethyl ether. The filtered solid was dried with warm wind in an oven (40° C.) for 3 hours or more to obtain the title compound (14 g, 87%).

reactant | 1-Chloro-4-isocyanato-2-(trifluoromethyl)benzene | 45.0 mmol, 9.97 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | 4-methyl-3-nitroaniline | 42.9 mmol, 6.52 g | CC1=C(C=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-(4-methyl-3-nitrophenyl)urea | 14 g, 87% | ClC1=C(C=C(C=C1)NC(=O)NC1=CC(=C(C=C1)C)[N+](=O)[O-])C(F)(F)F | C15H11ClF3N3O3
